US07858632B2
To a solution of zirconocene dichloride (1.76 g, 6.02 mmols) in dry tetrahydrofuran (25 ml), was slowly added ethylmagnesium bromide (12 ml, 1 M in tetrahydrofuran, 12 mmol) at −78° C. The green solution was stirred for 15 minutes at −78° C. and then warmed to 2° C. until the reaction color turned red (15 minutes). A solution of 3,4-dimethoxy-benzaldehyde (1.00 g, 6.02 mmol) in dry tetrahydrofuran (20 ml) was added and the reaction was allowed to warm up to room temperature over 1.5 hours. Solvent was removed under reduced pressure, and dichloromethane (20 ml) was added. The reaction mixture was cooled to 0° C. and titanium chloride (IV) (6 ml, 1M in dichloromethan, 6 mmol) was added. The reaction was allowed to warm up to room temperature over 30 minutes, and quenched with saturated ammonium chloride solution. The mixture was filtered through celite and portioned between dichloromethane and water. The combined dichloromethane was washed with saturated aqueous solution of ammonium chloride, saturated aqueous sodium bicarbonate and brine. The organic phase was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (gradient: 8% to 30% ethyl acetate in hexane) to yield 4-cyclopropyl-1,2-dimethoxy-benzene as yellow oily residue (0.2 g, 19%). Ref: Vincent Gandon et al. Eur. J. Org. Chem. 2000, 3713.

reactant | ethylmagnesium bromide | 12 mmol, 1 M, 12 ml | C(C)[Mg]Br
reactant | 3,4-dimethoxy-benzaldehyde | 6.02 mmol, 1.00 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | zirconocene dichloride | 6.02 mmols, 1.76 g | [Cl-].[Cl-].[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Zr+2]
catalyst | titanium chloride | 6 mmol, 1M, 6 ml | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
product | 4-cyclopropyl-1,2-dimethoxy-benzene | C1(CC1)C1=CC(=C(C=C1)OC)OC | C11H14O2
